US08664220B2
Step 1: 6-Bromo-pyridine-2-carboxylic acid cyclopropylamide
Prepared according to the procedure described in Example 121, Step 1, using 6-bromo-pyridine-2-carboxylic acid and cyclopropylamine.

reactant | 6-bromo-pyridine-2-carboxylic acid | BrC1=CC=CC(=N1)C(=O)O | C6H4BrNO2
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | 6-Bromo-pyridine-2-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=NC(=CC=C1)Br | C9H9BrN2O
